US07425634B2
(2e) 2-(((4-(5,7-dioxaspiro[2.5]oct-6-ylmethoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole
The (4-(5,7-dioxaspiro[2.5]oct-6-ylmethoxy)-3-methylpyridin-2-yl)methanol (520 mg, 1.96 mmol) obtained in the step (2d) was mixed with triethylamine (1.09 ml, 7.84 mmol) and tetrahydrofuran (10 ml) and the resultant mixture was cooled to −19° C. Methanesulfonyl chloride (228 μl, 2.94 mmol) was added to the mixture, which was stirred at −19° C. for 30 minutes. In the same conditions, 2-mercaptobenzimidazole (324 mg, 2.16=mol) was added to the reaction mixture. After the reaction mixture was stirred at room temperature for 2 days, methanol and NH silica gel were added to the mixture, and the solvent was distilled off. The mixture of the reaction mixture and NH silica gel was purified by silica gel column chromatography (silica gel: 80 g, elution solvent: ethyl acetate/heptane=4/6 to 7/3→methanol/ethyl acetate=1/9) to obtain the title compound (629 mg, yield: 80.7%) as a colorless foam.

reactant | (4-(5,7-dioxaspiro[2.5]oct-6-ylmethoxy)-3-methylpyridin-2-yl)methanol | 1.96 mmol, 520 mg | C1CC12COC(OC2)COC2=C(C(=NC=C2)CO)C | C14H19NO4
reactant | triethylamine | 7.84 mmol, 1.09 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.94 mmol, 228 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-mercaptobenzimidazole | 324 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(((4-(5,7-dioxaspiro[2.5]oct-6-ylmethoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 629 mg, yield: 80.7% | C1CC12COC(OC2)COC2=C(C(=NC=C2)CSC2=NC1=C(N2)C=CC=C1)C | C21H23N3O3S
